US07078414B2
0.237 g (5.65 mmol) of lithium hydroxide monohydrate is added at 20° C. to 0.57 g (2.26 mmol) of 3-methoxycarbonyl-1-(isoquinol-1-yl)-1H-pyrrole dissolved in 15 mL of tetrahydrofuran and 15 mL of water. After stirring at reflux for 2 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is taken up in 5 mL of water and then triturated with 5.65 mL of N hydrochloric acid for 1 hour. The aqueous phase is filtered and the solid residue is washed with twice 5 mL of water and then air-dried to give 0.58 g of 3-carboxy-1-(isoquinol-1-yl)-1H-pyrrole in the form of a white solid. Mass spectrum (EI): m/e 238 (M+.), m/e 193.

reactant | lithium hydroxide monohydrate | 5.65 mmol, 0.237 g | O.[OH-].[Li+]
reactant | 3-methoxycarbonyl-1-(isoquinol-1-yl)-1H-pyrrole | 2.26 mmol | COC(=O)C1=CN(C=C1)C1=NC=CC2=CC=CC=C12 | C15H12N2O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | 3-carboxy-1-(isoquinol-1-yl)-1H-pyrrole | 0.58 g | C(=O)(O)C1=CN(C=C1)C1=NC=CC2=CC=CC=C12 | C14H10N2O2
